US05472933
1-Methyl-2-(methylthio)-1H-pyrrole-3-sulfonamide
To a solution of 4.63 g (17.66 mmol) N-(1,1-dimethylethyl)-1-methyl-2-(methylthio)-1H-pyrrole-3-sulfonamide in 50 mL of methylene chloride was added 50 mL of trifluoroacetic acid (TFA) under a nitrogen atmosphere. The orange reaction mixture was stirred at room temperature overnight ca. 16 hours. The reaction mixture was concentrated to a tan solid. Diethyl ether was added to the tan solid and was removed by evaporation to remove residual TFA. The solid was suspended in diethyl ether and filtered giving 2.9 g of the title compound as a solid, m.p. 135°-137° C. 1H NMR (Acetone-d6, 200 MHz.) δ: 6.93(d,1H), 6.45(d,1H), 6.19(bs,2H), 3.78(s,3H), 2.33(s,3H).

reactant | N-(1,1-dimethylethyl)-1-methyl-2-(methylthio)-1H-pyrrole-3-sulfonamide | 17.66 mmol, 4.63 g | CC(C)(C)NS(=O)(=O)C1=C(N(C=C1)C)SC | C10H18N2O2S2
reactant | trifluoroacetic acid | 50 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-Methyl-2-(methylthio)-1H-pyrrole-3-sulfonamide | 2.9 g | CN1C(=C(C=C1)S(=O)(=O)N)SC | C6H10N2O2S2
